US06780861B2
(1-Aza-bicyclo[2.2.2]oct-3-yl)-carbamic acid 1-phenyl-ethyl ester
To a solution of imidazole-1-carboxylic acid 1-phenyl-ethyl ester 0.50 g (2.31 mmol) in 5 ml dimethylformamide, 3-aminoquinuclidine dihydrochloride 0.46 g (2.31 mmol) and sodium carbonate 0.49 g (4.62 mmol) are added. The suspension is heated up to 80° C. and stirred for 18 hours at this temperature. The reaction mixture is then cooled and extracted with water and ethylacetate. The combined organic phases are dried and evaporated. The oily residue is dried, dissolved in ether and acidified with a 4 M hydrochloric acid dioxane solution. The precipitating crystals are filtered, washed with ether and dried to give the title product. Mp=71-72° C. (decomposition).

reactant | imidazole-1-carboxylic acid 1-phenyl-ethyl ester | 2.31 mmol, 0.50 g | C1(=CC=CC=C1)C(C)OC(=O)N1C=NC=C1 | C12H12N2O2
reactant | 3-aminoquinuclidine dihydrochloride | 2.31 mmol, 0.46 g | Cl.Cl.NC1CN2CCC1CC2
reactant | sodium carbonate | 4.62 mmol, 0.49 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (1-Aza-bicyclo[2.2.2]oct-3-yl)-carbamic acid 1-phenyl-ethyl ester | C1(=CC=CC=C1)C(C)OC(NC1CN2CCC1CC2)=O | C16H22N2O2
